US05453514
1.86 g of aminoguanidine hydrochloride were added to a solution of 3.0 g of triacetylmethane and 30 ml of methanol with cooling at -10° C., and the reaction mixture was stirred for one day with cooling with ice. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel chromatography (eluent: chloroform/methanol=5/1) and then recrystallized from ether-chloroform to obtain 484 mg of 4-acetyl-3,5-dimethyl-1H-pyrazole-1-carboxamidine.

reactant | aminoguanidine hydrochloride | 1.86 g | C(=N)(N)NN.Cl
reactant | triacetylmethane | 3.0 g | C(C)(=O)C(C(C)=O)C(C)=O | C7H10O3
solvent | methanol | 30 ml | CO | CH4O
product | 4-acetyl-3,5-dimethyl-1H-pyrazole-1-carboxamidine | 484 mg | C(C)(=O)C=1C(=NN(C1C)C(=N)N)C | C8H12N4O
